US05721245
A solution of 450 mg of 1,2,3,4-tetrahydropyrazino[1,2-a]indole in 30 ml of dichloromethane was treated at 0° C. under a nitrogen atmosphere with 303 mg of triethylamine and 615 mg of di(t-butyl) dicarbonate. The mixture was stirred at 0° C. for 4 hours and then washed with saturated sodium bicarbonate solution, dried and evaporated to give an oil. Crystallization from methanol gave 580 mg of t-butyl 1,2,3,4-tetrahydropyrazino[1,2-a]indole-2-carboxylate of melting point 103°-105° C.

reactant | 1,2,3,4-tetrahydropyrazino[1,2-a]indole | 450 mg | C1NCCN2C1=CC=1C=CC=CC21 | C11H12N2
reactant | triethylamine | 303 mg | C(C)N(CC)CC | C6H15N
reactant | di(t-butyl) dicarbonate | 615 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | t-butyl 1,2,3,4-tetrahydropyrazino[1,2-a]indole-2-carboxylate | 580 mg | C1N(CCN2C1=CC=1C=CC=CC21)C(=O)OC(C)(C)C | C16H20N2O2
